US09102591B2
2,3-Dichloro-N-[2-(2-methylpyrimidin-5-yl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]benzamide
From 2,3-dichlorobenzoic acid and 2-(2-methyl-pyrimidin-5-yl)-3-(1-trifluoromethyl-cyclopropyl)-propylamine. LCMS (MH+): m/z=377.1, tR (minutes, Method F)=1.68

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(2-methyl-pyrimidin-5-yl)-3-(1-trifluoromethyl-cyclopropyl)-propylamine | CC1=NC=C(C=N1)C(CN)CC1(CC1)C(F)(F)F | C12H16F3N3
product | 2,3-Dichloro-N-[2-(2-methylpyrimidin-5-yl)-3-[1-(trifluoromethyl)cyclopropyl]propyl]benzamide | ClC1=C(C(=O)NCC(CC2(CC2)C(F)(F)F)C=2C=NC(=NC2)C)C=CC=C1Cl | C19H18Cl2F3N3O
